Conversion of Pspice full adder

* ----------------------------------------------------------- 74LV86A ------
*  Quad 2-Input Exclusive-Or Gate
*
*  TI PDF File
*  bss    2/24/03
*
.SUBCKT 74LV86A  1A 1B 1Y
+     optional: DPWR_3V=$G_DPWR_3V DGND_3V=$G_DGND_3V
+     params: MNTYMXDLY=0 IO_LEVEL=0

U1 xor DPWR_3V DGND_3V
+     1A 1B 1Y
+     DLY_LV86 IO_LV-A MNTYMXDLY={MNTYMXDLY} IO_LEVEL={IO_LEVEL}

.model DLY_LV86 ugate (tplhTY=7.4ns tplhMX=14.5ns tphlTY=7.4ns tphlMX=14.5ns)

.ENDS  74LV86A

* ----------------------------------------------------------- 74LV08A ------
*  Quad 2-Input And Gate
*
*  TI PDF File
*  bss    2/21/03
*
.SUBCKT 74LV08A  1A 1B 1Y
+     optional: DPWR_3V=$G_DPWR_3V DGND_3V=$G_DGND_3V
+     params: MNTYMXDLY=0 IO_LEVEL=0

U1 and(2) DPWR_3V DGND_3V
+     1A 1B 1Y
+     DLY_LV08 IO_LV-A MNTYMXDLY={MNTYMXDLY} IO_LEVEL={IO_LEVEL}

.model DLY_LV08 ugate (tplhTY=7.5ns tplhMX=12.3ns tphlTY=7.5ns tphlMX=12.3ns)

.ENDS  74LV08A

* ----------------------------------------------------------- 74LV32A ------
*  Quad 2-Input Or Gate
*
*  TI PDF File
*  bss    2/24/03
*
.SUBCKT 74LV32A  1A 1B 1Y
+     optional: DPWR_3V=$G_DPWR_3V DGND_3V=$G_DGND_3V
+     params: MNTYMXDLY=0 IO_LEVEL=0

U1 or(2) DPWR_3V DGND_3V
+     1A 1B 1Y
+     DLY_LV32 IO_LV-A MNTYMXDLY={MNTYMXDLY} IO_LEVEL={IO_LEVEL}

.model DLY_LV32 ugate (
+  tplhTY=6.9ns tplhMX=11.4ns tphlTY=6.9ns tphlMX=11.4ns)

.ENDS  74LV32A

.subckt hadd a b sum carry
x1_xor a b sum 74lv86a
x2_and a b carry 74lv08a
.ends hadd

.subckt fadd a b cin sum cout
x1_ha a b 1 2 hadd
x2_ha 1 cin sum 3 hadd
x3_or 3 2 cout 74lv32a
.ends fadd

x1 a b cin sum cout fadd
a2  [a b cin] input_vec1
.model input_vec1 d_source(input_file = "ex4.stim")

.tran 0.5ns 1650ns 0
.save all
.control
listing expand
run
display
edisplay
eprint a b cin sum cout
set xbrushwidth=3
plot a b cin cout sum digitop
*quit
.endc
.end
